US09315495B2
The compound was synthesized as in Example 24.1, using 4-hydroxybenzaldehyde (200 mg, 1.64 mmol) and 2-(bromomethyl)tetrahydrofuran (541 mg, 1.97 mmol) in place of 1-chloro-3,3-dimethylbutane (no sodium iodide was used) to give 4-((tetrahydrofuran-2-yl)methoxy)benzaldehyde (338 mg, quant. crude) as a yellow oil that was used without further purification or characterization.

reactant | 4-hydroxybenzaldehyde | 1.64 mmol, 200 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 2-(bromomethyl)tetrahydrofuran | 1.97 mmol, 541 mg | BrCC1OCCC1 | C5H9BrO
reactant | sodium iodide | [I-].[Na+]
product | 4-((tetrahydrofuran-2-yl)methoxy)benzaldehyde | 338 mg | O1C(CCC1)COC1=CC=C(C=O)C=C1 | C12H14O3
